US04990508
In 2 ml of N,N-dimethylformamide was dissolved 230 mg of benzyl alcohol. To the resulting solution was added 85 mg of 60% sodium hydride with ice-cooling. The resulting mixture was stirred at room temperature for 30 minutes. Thereto was added, with ice-cooling, 250 mg of 10-(1-benzyloxycarbonylaminocyclopropyl)-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid. The resulting mixture was stirred at room temperature for 7 hours. The reaction mixture was added to a mixture of 15 ml of ethyl acetate and 15 ml of water. The resulting mixture was adjusted to pH 1 with 2N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: chloroform/ethanol=10/1) to obtain 73.0 mg (yield: 24.6%) of 8-benzyloxy-10-(1-benzyloxycarbonylaminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid.

reactant | benzyl alcohol | 230 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 85 mg | [H-].[Na+]
reactant | 10-(1-benzyloxycarbonylaminocyclopropyl)-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | 250 mg | C(C1=CC=CC=C1)OC(=O)NC1(CC1)C=1C(=C(C2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F)F | C24H20F2N2O6
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 8-benzyloxy-10-(1-benzyloxycarbonylaminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 73.0 mg, yield: 24.6% | C(C1=CC=CC=C1)OC1=C(C(=C2C=3N(C(CO2)C)C=C(C(C13)=O)C(=O)O)C1(CC1)NC(=O)OCC1=CC=CC=C1)F | C31H27FN2O7
